US05484674
Attrition of Perylene
Instead of ball milling method as illustrated herein, the particle size reduction of benzimidazole perylene (BZP) photogenerating pigment in cyclohexane was accomplished in an attritor. Five (5) grams of sublimed benzimidazole perylene, obtained by the process as described in U.S. Pat. No. 5,225,307, was placed in an Union Process Model O1 attritor, which contained 180 milliliters of cyclohexane and 1.8 killigrams of 1/8 inch stainless steel balls. The attrition was accomplished at 300 rpm at a temperature of 15° C. A 10 milliliter aliquot of the BZP dispersion sample was withdrawn at 5, 11, 24, 48 and 72 hours for examination under transmission electron microscope and for the preparation of photoconductive members as described in Examples I and II. TEM measurements confirmed that fine particles of 0.05 to 0.1 micron in length were obtained. The BZP dispersion with a shorter attrition time contained large particles, 0.5 micron in length. The xerographic results obtained are shown in the following Table 2. The optimum attrition time for generating high photosensitivity BZP with fine particles was from about 48 to 72 hours.

reactant | BZP | C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45.N4=CNC5=C4C=CC=C5
solvent | cyclohexane | 180 milliliters | C1CCCCC1 | C6H12
product | Perylene | C1=CC=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45 | C20H12
